US09062028B2
Step C. Methyl 2-((4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyloxy)carbonylamino)acetate
A solution of 4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyl 4-nitrophenyl carbonate (0.020 g, 0.034 mmol), methyl 2-aminoacetate hydrochloride (5.07 mg, 0.040 mmol) and TEA (9.38 μL, 0.067 mmol) in DCM (0.200 mL) was stirred at room temperature for 16 h. After this time, the reaction mixture was quenched with 1 N NaOH. The organic layer was washed with water and brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The resulting residue was purified by preparative HPLC (PHENOMENEX® Axia Luna column, 5μ, C18, 30×100 mm; 10 min gradient from 75% A:25% B to 0% A:100% B (A=90% H2O/10% MeOH+0.1% TFA); (B=90% MeOH/10% H2O+0.1% TFA); detection at 220 nm) to afford the title compound (11.6 mg, 63% yield) as a clear colorless oil. LCMS, [M+H]+=545.2. 1H NMR (400 MHz, MeOD) δ 7.37 (d, J=7.9 Hz, 2H), 7.25 (d, J=7.4 Hz, 2H), 7.13 (d, J=7.5 Hz, 1H), 7.09 (d, J=6.8 Hz, 2H), 6.98 (t, J=7.9 Hz, 1H), 6.72 (d, J=7.5 Hz, 1H), 6.66 (d, J=8.1 Hz, 1H), 5.14 (s, 2H), 3.87 (s, 3H), 3.79-3.63 (m, 6H), 2.82 (t, J=6.9 Hz, 2H), 2.35 (s, 2H), 2.20-2.04 (m, 5H), 1.87-1.66 (m, 5H).

reactant | 4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyl 4-nitrophenyl carbonate | 0.034 mmol, 0.020 g | C(OCC1=CC=C(C=C1)C1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C35H34N2O7
reactant | methyl 2-aminoacetate hydrochloride | 0.040 mmol, 5.07 mg | Cl.NCC(=O)OC
solvent | DCM | 0.200 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-((4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyloxy)carbonylamino)acetate | 11.6 mg, 63% yield | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C2=CC=C(COC(=O)NCC(=O)OC)C=C2)C=CC=C1C | C32H36N2O6
